2102-10-06 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -patient remained intubated overnight, but following SBT, was
   successfully extubated at 8AM.  Now O2 sat 99% on 2L NC.
   -Patient appeared less sedated and when propofol was uptitrated, SBP
   noted to drop to the 90s with MAP in the 60s.  Urine output dropped
   from 250 to 50.  Patient given 1L NS bolus with increase in propofol to
   keep patient sedated.
   -hct at 2AM found to be 25.6, transfused 1u prbcs and recheck was 28.8
   at 6AM
   -plan to start subq heparin in the AM if hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-10-5**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-6**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.8
C (96.5
   HR: 111 (64 - 115) bpm
   BP: 97/90(94) {97/50(66) - 167/99(129)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 100%
   Wgt (current): 76 kg (admission): 76 kg
    CVP: 5 (3 - 13)mmHg
   Total In:
                                                                 12,385 mL
                                                                  1,984 mL
   PO:
   TF:
   IVF:
                                                                  4,550 mL
                                                                  1,634 mL
   Blood products:
                                                                  7,835 mL
                                                                    350 mL
   Total out:
                                                                  5,200 mL
                                                                    595 mL
   Urine:
                                                                    850 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,185 mL
                                                                  1,389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 14 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/40/219/24/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 547
   Physical Examination
   General: intubated, sedated, unresponsive to verbal and painful
   stimuli.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anterioroly, no wheezes,
   rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended,BS absent, lower abd dressing
   c/d/i
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   134 K/uL
   10.4 g/dL
   104 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   28.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-10-5**]  07:29 PM
                             [**2102-10-5**]  07:51 PM
                             [**2102-10-5**]  09:56 PM
                             [**2102-10-6**]  02:03 AM
                             [**2102-10-6**]  05:49 AM
   WBC
   10.6
   10.2
   Hct
   30.0
   25.6
   28.8
   Plt
   140
   134
   Cr
   0.5
   0.5
   TCO2
   27
   27
   Glucose
   165
   104
   Other labs: PT / PTT / INR:13.7/26.7/1.2, Fibrinogen:288 mg/dL, Lactic
   Acid:2.2 mmol/L, Ca++:8.4 mg/dL, free ionized Ca: 1.26, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   No micro pending:
   Imaging:
   CXR: [**2102-10-5**] at 8PM: my read: ET tube placed, clear lung fields.  No
   acute cardiopulmonary process.
   Assessment and Plan
 Assessment and Plan: 31 yoF w/ a h/o significant uterine fibroids,
   presented for multiple myomectomy on an elective basis on [**10-5**]
   complicated by 3500 EBL requiring massive transfusion.
   .
   # Blood loss: related to multiple myomectomy, hemostasis acheived per
   OB/Gyn surgeons.  Has rec'd massive transfusion of 11uPRBC with 8 units
   of FFP and 2 units plts. Hct remains stable but at risk for
   complications of transfusion therapy and further bleeding.
   -monitor serial hct at 10AM then q6h
   -active type and screen; access maintained
   -monitor coags
   - Transfuse for plts < 80, hct < 21, cryo for fibrinogen < 100 and FFP
   for INR > 1.5 or if requiring more PRBCs
   - will bolus as needed following monitoring of CVP
   - monitor coags/plts, Ca, monitor for TRALI/ARDS and other
   complications of massive tranfusion
   -given massive transfusion obtain CXR for baseline given risk of ARDS
   and to help w/ tube position
   -f/u OB gyn recs, hold off on sc heparin as long as hct stable at 10AM
   -currently w/ active type and screen and excellent access
   .
   # Respiratory: on ventilator after surgery.  Extubated successfully
   this AM.  Doing well.
   -pt extubated this AM
   -follow O2 sats
   - check ABG
   -incentive spirometry
   .
   # tachycardia: likely from pain and hypovolemia.
   -low CVP.  Will bolus IVFs and follow urine output.
   # PPX: Protonix, [**Month/Day (4) **] for now, consider switch to SC heparin
   this AM pending stable Hct
   .
   FEN: touch base with OB re:diet
   .
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 116**] start Heparin SC if 10 am Hct is stable
   .
   Access: Trauma line in R neck (placed under sterile conditions) R
   radial A line, 18g peripheral L antecub
   .
   Code:  Full
   .
   Disposition: pending clinical improvement may be called out to OB
   service this PM, will need to remove trauma line before leaving the
   floors.
   ICU Care
   Nutrition: NPO, ask OB re: advancing diet
   Glycemic Control:
   Lines:
   Trauma line (Cordis/Introducer) - [**2102-10-5**] 07:00 PM
   18 Gauge - [**2102-10-5**] 07:00 PM
   Prophylaxis:
   DVT: start subq heparin this AM
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2102-10-06 09:15:00 Physician Attending Progress Note
Chief Complaint: massive transfusion post elective myomectomy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31 yo F, prior multiple myomectomy, admitted for elective myomectomy
   for fibroid uterus, OR course c/b 3.5L blood loss, intraop hypotension
   requirin transient  neo gtt, and massive transufison (11 prbc, 8 ffp, 2
   plyt, 1 cryo, 4 L fliuds), hemostasis achieved , transferred to [**Hospital Unit Name 10**]
   for montioring post-operatively.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-10-5**] 07:00 PM
 CORDIS/INTRODUCER - START [**2102-10-5**] 07:00 PM
   off pressors by arrival to ICU
   transfused 1 unit prbc's fopr hct 26.5-->28.8
   extubated this am pre-rounds--> 2L NC with sat 99%
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-10-5**] 08:30 PM
   Morphine Sulfate - [**2102-10-6**] 08:30 AM
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-6**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 116 (64 - 116) bpm
   BP: 122/61(80) {97/50(66) - 167/99(129)} mmHg
   RR: 28 (12 - 28) insp/min
   SpO2: 100%
   Wgt (current): 76 kg (admission): 76 kg
   CVP: 5 (3 - 13)mmHg
   Total In:
                                                                 12,385 mL
                                                                  2,033 mL
   PO:
   TF:
   IVF:
                                                                  4,550 mL
                                                                  1,683 mL
   Blood products:
                                                                  7,835 mL
                                                                    350 mL
   Total out:
                                                                  5,200 mL
                                                                    855 mL
   Urine:
                                                                    850 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,185 mL
                                                                  1,178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 600) mL
   Vt (Spontaneous): 280 (280 - 369) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 14 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.45/38/146/24/3
   Ve: 9 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Poor dentition, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present, Distended, dressing c/d/i
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   134 K/uL
   104 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   10 mg/dL
   108 mEq/L
   140 mEq/L
   28.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-10-5**]  07:29 PM
                             [**2102-10-5**]  07:51 PM
                             [**2102-10-5**]  09:56 PM
                             [**2102-10-6**]  02:03 AM
                             [**2102-10-6**]  05:49 AM
                             [**2102-10-6**]  08:05 AM
   WBC
   10.6
   10.2
   Hct
   30.0
   25.6
   28.8
   Plt
   140
   134
   Cr
   0.5
   0.5
   TCO2
   27
   27
   27
   Glucose
   165
   104
   Other labs: PT / PTT / INR:13.7/26.7/1.2, Fibrinogen:288 mg/dL, Lactic
   Acid:2.2 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: lactate 3.8-->2.2
   i ca 1.26
   Imaging: CXR last night without focal process, edema, effusions
   Assessment and Plan
   31 F, prior multiple myomectomy, admitted for elective multiple
   myomectomy for fibroid uterus, OR course c/b 3.5L blood loss, intraop
   hypotension requirin transient  neo gtt, and massive transufison (11
   prbc, 8 ffp, 2 plyt, 1 cryo, 4 L fliuds), hemostasis achieved ,
   transferred to [**Hospital Unit Name 10**] for montioring post-operatively.
   Agree with plan to monitor given sig intraop bleeding.  Hct appears
   stable but at risk for rebleeding and continued oozing.  Will follow
   serial h/h and coags keeping active t and screen.  I ca and plts and
   coags wnl.  Pain contol with morphine following resp status.  Doing
   well post-extubation, will follow sats and check abg.  Incentrive
   spirometer. Tachycardia likely from pain and hypovolemia. CVP low.
   Will bolus Ivfs and follow urine outpt.  Continuie co-management with
   ob team.
   ICU Care
   Nutrition:  NPO, pending further inout from OB service regarding
   advancing to clears.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Cordis/Introducer - [**2102-10-5**] 07:00 PM
   18 Gauge - [**2102-10-5**] 07:00 PM, try for additional PIV or consider
   downsixing trauma line to triple lumen
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, pending stablizstion of hct, consider transfer to OB
   floor in afternoon.
   Total time spent: 35 minutes

2102-10-07 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-10-6**] 08:20 AM
 ARTERIAL LINE - START [**2102-10-6**] 03:33 PM
 EKG - At [**2102-10-6**] 04:05 PM
 BLOOD CULTURED - At [**2102-10-7**] 04:00 AM
 URINE CULTURE - At [**2102-10-7**] 04:30 AM
 FEVER - 101.1
F - [**2102-10-7**] 03:00 AM
   - successfully extubated at 7:30am
   - hct is stable 27-28, no more transfusions
   - was going to be called out to floor today but pt was tachycardic to
   120s-130s -> EKG showed sinus tach, and CXR unremarkable, BP and UOP
   were good. CVP low (6) so pt was given IVF boluses.
   - HR 120s-130s throughout the night, satting well on 2l. ordered CTA to
   rule out PE
   - kept her in ICU for now
   - fever to 101.1 at 3:30am, blood culture sent in AM
   - after cultures were sent, pt was given vanc/cipro/flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-10-7**] 05:00 AM
   Ciprofloxacin - [**2102-10-7**] 05:00 AM
   Vancomycin - [**2102-10-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-10-6**] 12:07 PM
   Hydromorphone (Dilaudid) - [**2102-10-6**] 02:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.5
   HR: 126 (114 - 133) bpm
   BP: 109/69(83) {98/54(71) - 129/78(277)} mmHg
   RR: 30 (25 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 65 Inch
    CVP: 7 (1 - 9)mmHg
   Total In:
                                                                  5,298 mL
                                                                    374 mL
   PO:
   TF:
   IVF:
                                                                  4,948 mL
                                                                    374 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,435 mL
                                                                  1,120 mL
   Urine:
                                                                  3,435 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,863 mL
                                                                   -747 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 280 (280 - 280) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.45/38/85.[**Numeric Identifier 433**]/24/2
   Ve: 9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General: intubated, sedated, unresponsive to verbal and painful
   stimuli.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anterioroly, no wheezes,
   rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended,BS absent, lower abd dressing
   c/d/i
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   116 K/uL
   9.9 g/dL
   100 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   4 mg/dL
   106 mEq/L
   137 mEq/L
   27.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2102-10-5**]  09:56 PM
                             [**2102-10-6**]  02:03 AM
                             [**2102-10-6**]  05:49 AM
                             [**2102-10-6**]  08:05 AM
                             [**2102-10-6**]  10:07 AM
                             [**2102-10-6**]  10:17 AM
                             [**2102-10-6**]  02:46 PM
                             [**2102-10-6**]  03:39 PM
                             [**2102-10-6**]  10:01 PM
                             [**2102-10-7**]  03:31 AM
   WBC
   10.2
   13.6
   Hct
   25.6
   28.8
   27.4
   27.2
   26.9
   27.1
   Plt
   134
   116
   Cr
   0.5
   0.4
   TCO2
   27
   27
   28
   27
   Glucose
   104
   100
   Other labs: PT / PTT / INR:14.8/28.9/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   [**10-7**] 3:30a Source: Catheter
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.011
   pH
   6.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Mod
   Nitr
   Neg
   Prot
   Tr
   Glu
   Neg
   Ket
   80
   RBC
   54
   WBC
   4
   Bact
   None
   Yeast
   None
   Epi
   1
   Other Urine Counts
   Mucous: Few
   [**10-6**] 10:00p 26.9
   [**10-6**] 3:30p 27.2
   [**2102-10-6**]
   2:46p
   _______________________________________________________________________
                                     pH
                                    7.45
                                    pCO2
                                     38
                                     pO2
                                     85
                                    HCO3
                                     27
                                   BaseXS
                                      2
   Type:Art; Not Intubated; Nasal Cannula; Rate:/37; O2-Flow:2; Temp:37.4
   freeCa:1.13
   Lactate:0.9
                                                                [**2102-10-6**]
                                                                    10:17a
   _______________________________________________________________________
                                     pH
                                    7.44
                                    pCO2
                                     40
                                     pO2
                                     100
                                    HCO3
                                     28
                                   BaseXS
                                      2
   Type:Art; Not Intubated; Nasal Cannula; O2-Flow:2
                                                                [**2102-10-6**]
                                                                    08:05a
   _______________________________________________________________________
                                     pH
                                    7.45
                                    pCO2
                                     38
                                     pO2
                                     146
                                    HCO3
                                     27
                                   BaseXS
                                      3
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:40; Rate:/26; TV:300;
   Temp:37.7
                                                                [**2102-10-6**]
                                                                    06:08a
   _______________________________________________________________________
   Lactate:2.2
   Assessment and Plan
 Assessment and Plan: 31 yoF w/ a h/o significant uterine fibroids,
   presented for multiple myomectomy on an elective basis on [**10-5**]
   complicated by 3500 EBL requiring massive transfusion.
   .
   # Blood loss: related to multiple myomectomy, hemostasis acheived per
   OB/Gyn surgeons.  Has rec'd massive transfusion of 11uPRBC with 8 units
   of FFP and 2 units plts. Hct remains stable but at risk for
   complications of transfusion therapy and further bleeding.
   -monitor serial hct at 10AM then q6h
   -active type and screen; access maintained
   -monitor coags
   - Transfuse for plts < 80, hct < 21, cryo for fibrinogen < 100 and FFP
   for INR > 1.5 or if requiring more PRBCs
   - will bolus as needed following monitoring of CVP
   - monitor coags/plts, Ca, monitor for TRALI/ARDS and other
   complications of massive tranfusion
   -given massive transfusion obtain CXR for baseline given risk of ARDS
   and to help w/ tube position
   -f/u OB gyn recs, hold off on sc heparin as long as hct stable at 10AM
   -currently w/ active type and screen and excellent access
   .
   # Respiratory: on ventilator after surgery.  Extubated successfully
   this AM.  Doing well.
   -pt extubated this AM
   -follow O2 sats
   - check ABG
   -incentive spirometry
   .
   # tachycardia: likely from pain and hypovolemia.
   -low CVP.  Will bolus IVFs and follow urine output.
   # PPX: Protonix, [**Month/Day (4) **] for now, consider switch to SC heparin
   this AM pending stable Hct
   .
   FEN: touch base with OB re:diet
   .
   Prophylaxis: [**Last Name (LF) **], [**First Name3 (LF) 116**] start Heparin SC if 10 am Hct is stable
   .
   Access: Trauma line in R neck (placed under sterile conditions) R
   radial A line, 18g peripheral L antecub
   .
   Code:  Full
   .
   Disposition: pending clinical improvement may be called out to OB
   service this PM, will need to remove trauma line before leaving the
   floors.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2102-10-5**] 07:00 PM
   18 Gauge - [**2102-10-6**] 11:14 AM
   Arterial Line - [**2102-10-6**] 03:33 PM
   Prophylaxis:
   DVT: start subq heparin this AM
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2102-10-08 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt continued to be tachy in 110-120s range, requiring several boluses
   up to 4.5L total, but continued to be tachy still
   - pt's trauma line has to be dc'd before being transferred to OB floor,
   requires surgery c/s apparently
   - A-line got clogged and was removed
   - spiked a fever to 101.5 at 1am -> blood cx sent, gave tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-10-7**] 05:00 AM
   Ciprofloxacin - [**2102-10-7**] 05:00 AM
   Vancomycin - [**2102-10-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-10-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-10-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 104 (104 - 135) bpm
   BP: 129/82(91) {112/73(83) - 130/94(96)} mmHg
   RR: 31 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76 kg (admission): 76 kg
   Height: 65 Inch
    CVP: 9 (6 - 15)mmHg
   Total In:
                                                                  6,545 mL
                                                                  1,765 mL
   PO:
                                                                  1,090 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  5,455 mL
                                                                  1,525 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,200 mL
   Urine:
                                                                  3,950 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,595 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General: intubated, sedated, unresponsive to verbal and painful
   stimuli.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally anterioroly, no wheezes,
   rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended,BS absent, lower abd dressing
   c/d/i
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   129 K/uL
   8.8 g/dL
   124 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.1 mEq/L
   3 mg/dL
   105 mEq/L
   139 mEq/L
   25.2 %
   15.7 K/uL
         [image002.jpg]
                             [**2102-10-6**]  05:49 AM
                             [**2102-10-6**]  08:05 AM
                             [**2102-10-6**]  10:07 AM
                             [**2102-10-6**]  10:17 AM
                             [**2102-10-6**]  02:46 PM
                             [**2102-10-6**]  03:39 PM
                             [**2102-10-6**]  10:01 PM
                             [**2102-10-7**]  03:31 AM
                             [**2102-10-7**]  05:20 PM
                             [**2102-10-8**]  01:10 AM
   WBC
   10.2
   13.6
   15.7
   Hct
   28.8
   27.4
   27.2
   26.9
   27.1
   27.5
   25.2
   Plt
   134
   116
   129
   Cr
   0.5
   0.4
   0.4
   TCO2
   27
   28
   27
   Glucose
   104
   100
   124
   Other labs: PT / PTT / INR:14.7/31.5/1.3
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   CTA CHEST: IMPRESSION:
   No pulmonary embolism to subsegmental level, no dissection or aneurysm.
   Mild-to-moderate enlargement of the pulmonary artery suggests pulmonary
   arterial hypertension.
   Small bibasilar pleural effusions with overlying atelectasis.
   Blood and urine cx NTD
   Assessment and Plan
 Assessment and Plan: 31 yoF w/ a h/o significant uterine fibroids,
   presented for multiple myomectomy on an elective basis on [**10-5**]
   complicated by 3500 EBL requiring massive transfusion.
   .
   # Blood loss: related to multiple myomectomy, hemostasis acheived per
   OB/Gyn surgeons.  Has rec'd massive transfusion of 11uPRBC with 8 units
   of FFP and 2 units plts. Hct remains stable and showed no complications
   of transfusion therapy or further bleeding.  Pt continues to require
   IVF boluses to correct tachycardia.
   - continue boluses PRN (monitot UOP)
   - monitor daily hct
   - f/u OB gyn recs
   .
   # Fever: diff incl new infection such as UTI, PNA, C diff, infection of
   surgical site, however OB/Gyn feels this may be just a benign
   inflammatory reaction to the recent surgery.
   - will monitor
   - no abx for now
   - f/u cultures
   .
   # Respiratory: on ventilator after surgery.  Extubated successfully
   yesterday.
   - follow O2 sats
   - encourage incentive spirometry
   - CTA showed no PE, small bilat effusions, atelectasis
   .
   # Enlarged PA on imaging: diff incl high output heart [**3-6**] chronic incr
   demand bc of multiple fibroids, a cardic anatomical defect (such as
   ASD, though no murmurs appreciated), essential pulm HTN, lung
   pathology.
   - consider outpatient ECHO at some point to further investigate this
   finding
   .
   # S/P myomectomy:
   - pain was controlled on Dilaudid PCA (requiring low amts)
   - will switch to IV Dilaudid PRN and Percocet (pt states Percocet
   worked well for her previously)
   ICU Care
   Nutrition: clear advance to full
   Glycemic Control:  none
   Lines:
   Cordis/Introducer - [**2102-10-5**] 07:00 PM
 d/c line this AM prior to
   transfer to floor
   18 Gauge - [**2102-10-6**] 11:14 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
 d/c today
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to OB floor